US09056859B2
Step B: (7-chloro-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde
To a round bottom flask charged with a mixture of 5-bromo-7-chloro-2-benzofuran-1(3H)-one and 7-bromo-5-chloro-2-benzofuran-1(3H)-one (120 mg, 0.48 mmol) and a stir bar was added PdCl2(dppf)-DCM complex (40 mg, 0.048 mmol) allyl tri-n-butyltin (241 mg, 0.73 mmol), lithium chloride (41 mg, 0.97 mmol), and toluene (15 mL). The mixture was purged three times with nitrogen, and heated to 120° C. for 4 hours. LC showed formation of the desired product, which was purified by silica gel chromatography (Hexane-EtOAc). The resulting oil yellow oil was then dissolved in methanol (10 mL). The solution was cooled to −78° C. To this solution was bubbled ozone through until it turned light blue. Excess ozone was removed by bubbling nitrogen through the solution, which was followed by addition of dimethyl sulfide (0.21 mL, 2.9 mmol). The reaction was allowed to warm to RT slowly. LC showed formation of the desired product. The reaction was diluted with EtOAc (50 mL), washed with brine, dried over sodium sulfate, adsorbed onto silica gel, and purified by flash chromatography as a mixture of (7-chloro-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde and (6-chloro-3-oxo-1,3-dihydro-2-benzofuran-4-yl)acetaldehyde. LC/MS: (IE, m/z) (M+1)+=211.1.

reactant | 5-bromo-7-chloro-2-benzofuran-1(3H)-one | BrC1=CC2=C(C(OC2)=O)C(=C1)Cl | C8H4BrClO2
reactant | 7-bromo-5-chloro-2-benzofuran-1(3H)-one | 0.48 mmol, 120 mg | BrC1=CC(=CC2=C1C(OC2)=O)Cl | C8H4BrClO2
reactant | lithium chloride | 0.97 mmol, 41 mg | [Cl-].[Li+]
reactant | dimethyl sulfide | 2.9 mmol, 0.21 mL | CSC | C2H6S
catalyst | PdCl2(dppf) DCM | 0.048 mmol, 40 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (7-chloro-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde | ClC1=CC(=CC2=C1C(OC2)=O)CC=O | C10H7ClO3
